US04341905
Ethylene carbonate (89.9 g, 1.02 mole), phenol (94.1 g, 1.0 mole) and potassium fluoride (1 g, 0.5 percent of total reactant weight) were placed in a 500 ml round-bottomed flask equipped with a condenser and gas bubbler. A magnetic stirrer provided agitation. The mixture was heated to 160° C.±2° C. in an oil bath. After 2.5 hours the reaction vessel was removed from the oil bath, cooled and the contents removed. Purification of the product by distillation gave 137 g of 2-phenoxyethanol (99 percent conversion based on phenol limiting reagent).

reactant | Ethylene carbonate | 1.02 mole, 89.9 g | C1(OCCO1)=O | C3H4O3
reactant | phenol | 1.0 mole, 94.1 g | C1(=CC=CC=C1)O | C6H6O
catalyst | potassium fluoride | 1 g | [F-].[K+]
product | 2-phenoxyethanol | 137 g, 99 percent | O(C1=CC=CC=C1)CCO | C8H10O2
